US08372864B2
0.5 g of methyl 7-amino-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate is dissolved under an inert atmosphere in 5 cm3 of dichloromethane at a temperature close to 20° C. 0.142 cm3 of pyridine is poured into the reaction mixture which is then cooled to a temperature close to 5° C. 0.122 cm3 of methanesulfonyl chloride is introduced over 30 min. The stirring is continued for 20 h while gradually allowing it to climb back up to a temperature close to 20° C. 20 cm3 of a saturated aqueous solution of sodium hydrogen carbonate and 5 cm3 of water are added to the reaction mixture. Stirring is continued for 1 h at a temperature close to 20° C. The aqueous phase is extracted with 10 cm3 of dichloromethane. After decanting, the organic phase is dried over magnesium sulfate, filtered then concentrated using a rotary evaporator under reduced pressure (5 kPa). The crude product obtained is purified by trituration in 10 cm3 of hot diisopropyl ether. After filtering at a temperature close to 20° C., washing with 2 lots of 5 cm3 of diisopropyl ether and drying under vacuum, 0.6 g of methyl 7-[(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate is obtained in the form of pink crystals.

reactant | methyl 7-amino-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate | 0.5 g | NC=1C=C(C=2CCN(C(C2C1)=O)C(CCC)CCC)C(=O)OC | C18H26N2O3
reactant | pyridine | 0.142 cm3 | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.122 cm3 | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 5 cm3 | ClCCl | CH2Cl2
solvent | water | 5 cm3 | O | H2O
product | methyl 7-[(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate | 0.6 g | CS(=O)(=O)NC=1C=C(C=2CCN(C(C2C1)=O)C(CCC)CCC)C(=O)OC | C19H28N2O5S
